* Solenoid driver initial-state check based on posted schematic segment
* Nodes:
* ctrl = Q2 drain / Q8 gate / Q9 gate / R20 bottom
* drv  = Q8 drain / Q9 drain / R25 left
* gq17 = Q17 gate
* out  = SD6 node (Q17 source / R30 top)

.param VIN=3.3
V22 v22 0 22
VS6 s6 0 {VIN}

R15 s6 0 10k
R20 v22 ctrl 10k

* Q2 BSS138 style pull-down from ctrl to ground when S6 high
M2 ctrl s6 0 0 NMOS_SIG

* Complementary level-shift pair
M8 drv ctrl v22 v22 PMOS_SIG
M9 drv ctrl 0 0 NMOS_SIG

R25 drv gq17 56

* Q17 represented as N-MOS pass element (as drawn in screenshot)
M17 v22 gq17 out out NMOS_PWR
R30 out 0 10k

* Approximate solenoid/load seen from SD6 node
RLOAD out 0 20

.model NMOS_SIG NMOS (VTO=1.5 KP=0.02 RD=0.5 RS=0.5 CGS=20p CGD=10p)
.model PMOS_SIG PMOS (VTO=-1.5 KP=0.01 RD=1 RS=1 CGS=20p CGD=10p)
.model NMOS_PWR NMOS (VTO=3.0 KP=2.0 RD=0.03 RS=0.03)

.op

.meas op VCTRL FIND V(ctrl)
.meas op VDRV FIND V(drv)
.meas op VGATE_Q17 FIND V(gq17)
.meas op VOUT FIND V(out)
.meas op ILOAD FIND I(RLOAD)
.end

